US04816452
a. Ethyl (Z)-2-(1-methylcyclopent-1-yloxyimino)-3-oxobutyrate
Ethyl (Z)-2-(hydroxyimino)-3-oxobutyrate (5.86 g, 36.8 mmol), 1-bromo-1-methylcyclohexane (6.01 g 36.8 mmol), and silver trifluoromethanesulphonate (9.45 g, 36.8 mmol) were reacted together by a similar method to that described in Example 9a to give the title compound (4.45 g, 50%); νmax (film) 2970, 1745, 1690, 1590, 1370, 1320, 1230, 1070, and 990 cm-1 ; δH (60 MHz, CDCl3), 1.31 (3H, t, J 7 Hz), 1.48 (3H, s), 1.1-2.2 (8H, m), 2.35 (3H, s), and 4.30 (2H, q, J 7 Hz).

reactant | Ethyl (Z)-2-(hydroxyimino)-3-oxobutyrate | 36.8 mmol, 5.86 g | O\N=C(/C(=O)OCC)\C(C)=O | C6H9NO4
reactant | 1-bromo-1-methylcyclohexane | 36.8 mmol, 6.01 g | BrC1(CCCCC1)C | C7H13Br
catalyst | silver trifluoromethanesulphonate | 36.8 mmol, 9.45 g | FC(S(=O)(=O)[O-])(F)F.[Ag+]
product | Ethyl (Z)-2-(1-methylcyclopent-1-yloxyimino)-3-oxobutyrate | 4.45 g, 50% | CC1(CCCC1)O\N=C(/C(=O)OCC)\C(C)=O | C12H19NO4
